US07674789B2
10b) 5-(5-Amino-2-methylphenyl)-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one
To 5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (0.342 g, 1 mmol) and 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.256 g, 1.1 mmol) in dioxane (40 mL), was added a solution of K2CO3 (0.417 g, 3 mmol) in water (10 mL). Argon was vigorously bubbled through the mixture for 5 minutes and then tetrakis(triphenyl-phosphine)palladium(0) (0.078 g, 0.05 mmol) was added. The mixture was heated in a 95° C. oil bath for 17 hours. The solvent was pumped off in vacuo, and the residue partitioned between ethyl acetate and water. The phases separated and the organic phase washed with brine, dried over anhydrous Na2SO4, filtered and evaporated. The crude product was flash chromatographed on silica gel (20 grams) eluted with 0-10% MeOH/CH2Cl2 to give the title product as a white solid. mp 122-125° C. LC-MS m/z 414 (M+H)+, 1.58 min (ret. time).

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1 mmol, 0.342 g | ClC1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4OS
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.1 mmol, 0.256 g | CC1=C(C=C(N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | K2CO3 | 3 mmol, 0.417 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 5-(5-Amino-2-methylphenyl)-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | NC=1C=CC(=C(C1)C1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F)C | C20H17F2N5OS
